US05716929
N-(N-Acetyl-tyrosinyl-valinyl-(4(R)-allyloxyprolinyl))-3(S)-amino-4-oxobutanoic acid tert-butyl ester semicarbazone
N-Acetyl-tyrosinyl-valinyl-4-allyloxyproline (420 mg, 0.88 mmol) and 3-amino-4-oxobutyric acid tert-butyl ester semicarbazone (184 mg, 0.8 mol, Graybill et al., Int. J. Protein Res., 44, pp. 173-82 (1994)) to give 100 mg (20%) of the title compound as a white amorphous solid: 1H NMR (CD3OD) δ 7.24-7.2 (1H, m), 7.04-6.97 (2H, d), 6.73-6.65 (2H, d), 5.98-5.86 (1H, m), 5.35-5.24 (1H, d), 5.17-5.12 (1H, m), 4.12-3.98 (2H, m), 3.72-3.67 (1H, m), 2.98-2.92 (3H, m), 2.38-2.32 (1H, m), 2.1-2.02 (2H, m), 1.92 (3H, s), 0.98-0.89 (6H, 2×d).

reactant | N-Acetyl-tyrosinyl-valinyl-4-allyloxyproline | 0.88 mmol, 420 mg | C(C)(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H](C(C)C)C(=O)N1[C@H](C(=O)O)CC(C1)OCC=C | C24H33N3O7
reactant | 3-amino-4-oxobutyric acid tert-butyl ester semicarbazone | C(C)(C)(C)OC(CC(C=O)N)=NNC(=O)N | C9H18N4O3
product | N-(N-Acetyl-tyrosinyl-valinyl-(4(R)-allyloxyprolinyl))-3(S)-amino-4-oxobutanoic acid tert-butyl ester semicarbazone | 100 mg, 20% | C(C)(C)(C)OC(C[C@@H](C=O)NC([C@H]1N(C[C@@H](C1)OCC=C)C([C@@H](NC([C@@H](NC(C)=O)CC1=CC=C(C=C1)O)=O)C(C)C)=O)=O)=NNC(=O)N | C33H49N7O9
